US08685965B2
Step A. 7′-Chloro-5-nitro-1,3-dihydrospiro[indene-2,4′-pyrido[2,3-d][1,3]oxazin]-2′(1′H)-one
A solution of N,N,N′,N′-tetramethylethylenediamine (3.3 mL, 22 mmol) in THF (8 mL) is cooled to −20° C. and treated with n-butyllithium (2.5 Min hexanes, 8.8 mL, 22 mmol) over 10 min. After stirring for 30 min, the mixture is cooled to −78° C. and treated with a solution of tert-butyl(6-chloropyridin-2-yl)carbamate (2.29 g, 10 mmol) [Williams US2006/028835] in THF (6 mL) over 15 min. After 1 h, the mixture is warmed to −50° C. and treated with a solution of 5-nitro-1,3-dihydro-2H-inden-2-one (2.66 g, 15 mmol) in THF (8 mL) over 10 min. The mixture is then allowed to warm to rt and stirred for 24 h. The reaction is quenched by addition of saturated aqueous NaHCO3 and the mixture is then extracted with EtOAc (×3). The combined organic extracts are washed successively with water and brine, dried (anhydrous MgSO4), filtered and concentrated in vacuo. The residue is purified by silica gel chromatography (gradient elution with hexanes-EtOAc) to afford the title compound.

reactant | N,N,N′,N′-tetramethylethylenediamine | 22 mmol, 3.3 mL | CN(CCN(C)C)C | C6H16N2
reactant | n-butyllithium | 22 mmol, 8.8 mL | C(CCC)[Li]
reactant | tert-butyl(6-chloropyridin-2-yl)carbamate | 10 mmol, 2.29 g | C(C)(C)(C)OC(NC1=NC(=CC=C1)Cl)=O | C10H13ClN2O2
reactant | 5-nitro-1,3-dihydro-2H-inden-2-one | 15 mmol, 2.66 g | [N+](=O)([O-])C=1C=C2CC(CC2=CC1)=O | C9H7NO3
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 7′-Chloro-5-nitro-1,3-dihydrospiro[indene-2,4′-pyrido[2,3-d][1,3]oxazin]-2′(1′H)-one | ClC=1C=CC2=C(NC(OC23CC2=CC=C(C=C2C3)[N+](=O)[O-])=O)N1 | C15H10ClN3O4
